US05852014
N-[(1-Benzyl-4-piperidyl)methy] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide (E20)
A stirred suspension of N-[(l-benzyl-4-piperidyl)methyl] indole-3-carboxamide (17.5 g, 0.050 mole) in chloroform (250 ml) was treated with 3-bromo-1-propanol (10.1 ml, 0.11 mole) and N-chlorosuccinimde (8.7 g, 0.065 mole) at room temperature and a clear solution was obtained in 15 minutes. After 1 h the reaction mixture darkened in colour from pale yellow to orange and temperature rose to 38° C. After a further 1 h the reaction mixture was treated with 10% NaHCO3 solution and the chloroform layer separated, dried (Na2SO4) and concentrated in vacuo to leave a yellow oil, which was chromatographed on silica gel eluting with 3% methanol/chloroform. The 2-(3-bromopropoxy)indole intermediate was dissolved in acetone (400 ml), treated with anhydrous potassium carbonate (11 g, 0.80 mole) and stirred at room temperature for 20 h. The reaction mixture was concentrated in vacuo and the residue treated with water (200 ml) and extracted with chloroform (2×250 ml). The combined extracts were dried (Na2 SO4), concentrated in vacuo and the residue chromatographed on silica gel eluting with 5% methanol/chloroform to afford the title compound (E20) as a pale yellow oil (3.1 g, 15%). This was converted to its oxalate salt and crystallised from acetone as a white solid mp 169°-170° C.

reactant | N-[(l-benzyl-4-piperidyl)methyl] indole-3-carboxamide | 0.050 mole, 17.5 g | C(C1=CC=CC=C1)N1CCC(CC1)CNC(=O)C1=CNC2=CC=CC=C12 | C22H25N3O
reactant | 3-bromo-1-propanol | 0.11 mole, 10.1 ml | BrCCCO | C3H7BrO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | potassium carbonate | 0.80 mole, 11 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(1-Benzyl-4-piperidyl)methy] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide | 3.1 g, 15% | C(C1=CC=CC=C1)N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C25H29N3O2
